US07226926B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 2-(4-chloropyridin-2-yl)-5-fluorobenzonitrile (prepared from 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile and 2,4-dichloropyridine by an analogous procedure to that described in WO 02/076983), by the method of Example 23, to give 5-fluoro-2-{4-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-2-yl}benzonitrile: δH (500 MHz, CDCl3) 1.75 (6H, s), 2.08 (1H, s), 7.32 (1H, t, J 7.0), 7.45-7.49 (1H, m), 7.53-7.56 (2H, m), 7.92 (1H, s), 7.98 (1H, t, J 0.7), 7.99 (1H, dd, J 3.4, 5.4), 8.50 (1H, d, J 7.3), 8.87 (1H, d, J 5.1); m/z (ES+) 391. Also isolated from the above reaction was 5-fluoro-2-{4-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-2-yl}benzamide: δH (500 MHz, DMSO) 1.59 (6H, s), 7.35-7.44 (3H, m), 7.60 (1H, t, J 0.6), 7.66 (1H, dd, J 0.5, 0.7), 7.82-7.84 (1H, m), 7.85 (1H, s), 7.95 (1H, s), 8.05 (1H, s), 8.60 (1H, d, J 7.1), 8.73 (1H, d, J 5.4); m/z (ES+) 409.

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 2-(4-chloropyridin-2-yl)-5-fluorobenzonitrile | ClC1=CC(=NC=C1)C1=C(C#N)C=C(C=C1)F | C12H6ClFN2
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | 2,4-dichloropyridine | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
product | 5-fluoro-2-{4-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-2-yl}benzonitrile | FC=1C=CC(=C(C#N)C1)C1=NC=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C22H16F2N4O
